US04952574
A solution of 2.5 g (0.062 mole) of sodium hydroxide in 60 ml of water was combined with 9.9 g (0.031 mole) of ethyl 5-butoxy-2-(2,2,2-trifluoroethoxy)benzoate and 50 ml of ethanol. The reaction mixture was heated at reflux for about sixteen hours then concentrated to remove most of the ethanol, diluted with water and acidified with 10% hydrochloric acid. The resulting solid was collected then recrystallized from a mixture of ethanol and water to provide 7.0 g of white crystalline 5-butoxy-2-(2,2,2-trifluoroethoxy)benzoic acid, m.p. 88.5°-90° C. Analysis: Calculated for C13H15F3O4 : %C, 53.4; %H. 5.2; Found: %C, 53.3; %H, 5.0.

reactant | sodium hydroxide | 0.062 mole, 2.5 g | [OH-].[Na+]
reactant | ethyl 5-butoxy-2-(2,2,2-trifluoroethoxy)benzoate | 0.031 mole, 9.9 g | C(CCC)OC=1C=CC(=C(C(=O)OCC)C1)OCC(F)(F)F | C15H19F3O4
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 60 ml | O | H2O
product | 5-butoxy-2-(2,2,2-trifluoroethoxy)benzoic acid | 7.0 g | C(CCC)OC=1C=CC(=C(C(=O)O)C1)OCC(F)(F)F | C13H15F3O4
